US08227601B2
2-Amino-6-methyl-5-nitropyrimidin-4(3H)-one
To a mixture of 2-amino-6-methylpyrimidin-4(3H)-one (50 g, 0.4 mol) in 250 mL of H2SO4 at 0° C. was added 40 mL of HNO3 with an additional funnel. After being stirred at room temperature for 3 h, the reaction mixture was slowly poured into 3.6 L of diethyl ether and stirred for 15 min. Decant the ether solution and added 1.0 L of ethyl acetate to the solid and stirred for 10 h. The solid (54.8 g, 81% yield) was filtered and used for next step without any further purification.

reactant | 2-amino-6-methylpyrimidin-4(3H)-one | 0.4 mol, 50 g | NC1=NC(=CC(N1)=O)C | C5H7N3O
reactant | HNO3 | 40 mL | [N+](=O)(O)[O-] | HNO3
reactant | diethyl ether | 3.6 L | C(C)OCC | C4H10O
solvent | H2SO4 | 250 mL | OS(=O)(=O)O | H2O4S
product | 2-Amino-6-methyl-5-nitropyrimidin-4(3H)-one | 54.8 g, 81% yield | NC1=NC(=C(C(N1)=O)[N+](=O)[O-])C | C5H6N4O3
